US05235068
In 50 ml of tetrachloroethane were dissolved 5.11 g (0.05 mole) of valeric acid and 9.83 g (0.0575 mole) of monochloroacetic anhydride. To the resulting solution were added 9.42 g (0.06 mole) of bromobenzene and 0.8 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 115° C. for 10 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 6.75 g of valerylbromobenzene.

reactant | valeric acid | 0.05 mole, 5.11 g | C(CCCC)(=O)O | C5H10O2
reactant | monochloroacetic anhydride | 0.0575 mole, 9.83 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | bromobenzene | 0.06 mole, 9.42 g | BrC1=CC=CC=C1 | C6H5Br
solvent | tetrachloroethane | 50 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | valerylbromobenzene | 6.75 g, Yield: 56% | C(CCCC)(=O)C1=C(C=CC=C1)Br | C11H13BrO
